US05925676
(RS)-3-propyl-3-cyclopenten-1-ol (500 mg) and (1RS)-cis-2,2-dimethyl-3-(2,2-dichlorovinyl)cyclopropanecarbonyl chloride (902 mg) were respectively used instead of (RS)-3-ethyl-4-methyl-3-cyclopenten-1-ol and (1RS)-cis-3-(Z-2-chloro-3,3,3-trifluoro-1-propenyl)-2,2-dimethylcyclopropanecarbonyl chloride used in Example 1 above and the reaction procedures were carried out in the same manner as in Example 1 to afford 1150 mg of (RS)-3-propyl-3-cyclopentenyl (1RS)-cis-3-(Z-2-chloro-3,3,3-trifluoro-1-propenyl)-2,2-dimethylcyclopropanecarboxylate (Compound No. 130). Yield 91% nD24 1.5038

reactant | (RS)-3-propyl-3-cyclopenten-1-ol | 500 mg | C(CC)C=1CC(CC1)O | C8H14O
reactant | (1RS)-cis-2,2-dimethyl-3-(2,2-dichlorovinyl)cyclopropanecarbonyl chloride | 902 mg | CC1([C@H]([C@H]1C=C(Cl)Cl)C(=O)Cl)C | C8H9Cl3O
reactant | (RS)-3-ethyl-4-methyl-3-cyclopenten-1-ol | C(C)C=1CC(CC1C)O | C8H14O
reactant | (1RS)-cis-3-(Z-2-chloro-3,3,3-trifluoro-1-propenyl)-2,2-dimethylcyclopropanecarbonyl chloride | Cl\C(=C/[C@H]1C([C@H]1C(=O)Cl)(C)C)\C(F)(F)F | C9H9Cl2F3O
product | (RS)-3-propyl-3-cyclopentenyl (1RS)-cis-3-(Z-2-chloro-3,3,3-trifluoro-1-propenyl)-2,2-dimethylcyclopropanecarboxylate | 1150 mg, Yield 91% | Cl\C(=C/[C@H]1C([C@H]1C(=O)OC1CC(=CC1)CCC)(C)C)\C(F)(F)F | C17H22ClF3O2
